US06676851B1
A solution of diethyl azodicarboxylate (7.3 g; 42 mmol) and tetrahydrofuran (15 ml) was added dropwise at 0° C. to a solution of 4-hydroxybenzonitrile (4.2 g; 35 mmol), 8-chloro-1-octanol (6.9 g; 42 mmol), triphenylphosphine (11.0 g; 42 mmol) and tetrahydrofuran (70 ml) and stirred at room temperature overnight. The reaction mixture was added to water (200 ml) and extracted with ethyl acetate (3×100 ml), dried over magnesium sulphate and filtered. The solvent was then removed in vacuo. The residue was purified by column flash chromatography on silica gel using toluene/ethyl acetate (97:3) as eluent, to give 8.8 g (94%) of p-[(8-chlorooctyl)oxy]benzonitrile.

reactant | diethyl azodicarboxylate | 42 mmol, 7.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxybenzonitrile | 35 mmol, 4.2 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 8-chloro-1-octanol | 42 mmol, 6.9 g | ClCCCCCCCCO | C8H17ClO
reactant | triphenylphosphine | 42 mmol, 11.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | p-[(8-chlorooctyl)oxy]benzonitrile | 8.8 g, 94% | ClCCCCCCCCOC1=CC=C(C#N)C=C1 | C15H20ClNO
